US06673795B2
In analogy to the procedure described in example 82c, 3-bromo-5-(2-hydroxy-ethyl-amino)-pyrazine-2-carbonitrile was treated with 1-(4-fluorophenyl)piperazine in the presence of potassium carbonate in N,N-dimethylformamide between room temperature and 80° C. to yield 4-(4-fluoro-phenyl)-6′-(2-hydroxy-ethylamino)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-carbonitrile as light yellow solid; m.p. 149-151° C.; MS: 343 (M+H)+.

reactant | 3-bromo-5-(2-hydroxy-ethyl-amino)-pyrazine-2-carbonitrile | BrC=1C(=NC=C(N1)NCCO)C#N | C7H7BrN4O
reactant | 1-(4-fluorophenyl)piperazine | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-fluoro-phenyl)-6′-(2-hydroxy-ethylamino)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-carbonitrile | FC1=CC=C(C=C1)N1CCN(CC1)C1=NC(=CN=C1C#N)NCCO | C17H19FN6O
